* Auto TB for barthmanf_edge
.include /mnt/e/MyResearch/Mixed_ngspice/test/models/45nm_LP_BSIM4/ptm45lp.lib
.option gmin=1e-12
* NGSPICE file created from barthmanf.ext - technology: gf180mcuC

.subckt barthmanf_edge vreg gp op im x y ip om vdd gnd bp
X0 gnd lo lo gnd nmos_3p3 w=1.8u l=0.6u
X1 vdd hih hih vdd pmos_6p0 w=1.8u l=0.6u
X2 vreg hi hi bp pmos_3p3 w=1.5u l=0.6u
C0 vreg gp 1.01fF
C1 vreg vdd 0.22fF
C2 hi bp 0.28fF
C3 vreg bp 0.23fF
C4 vreg hi 0.11fF
C5 hih vdd 0.45fF
C6 vreg gnd 0.44fF
C7 bp gnd 4.35fF
C8 vdd gnd 4.01fF
C9 lo gnd 0.84fF
C10 hi gnd 0.46fF
C11 hih gnd 0.46fF
.ends

.subckt barthmanf_cell inl inr out gp vreg op im x y ip om vdd gnd bp
X0 vreg gp vdd vdd pmos_6p0 w=1.8u l=0.6u
X1 vreg inr out bp pmos_3p3 w=1.5u l=0.6u
X2 vdd gp vreg vdd pmos_6p0 w=1.8u l=0.6u
X3 d2 inr out gnd nmos_3p3 w=1.8u l=0.6u
X4 d1 inl gnd gnd nmos_3p3 w=1.8u l=0.6u
X5 out inr vreg bp pmos_3p3 w=1.5u l=0.6u
X6 vreg gp vdd vdd pmos_6p0 w=1.8u l=0.6u
X7 vreg inl out bp pmos_3p3 w=1.5u l=0.6u
X8 gnd inr d2 gnd nmos_3p3 w=1.8u l=0.6u
X9 out inl d1 gnd nmos_3p3 w=1.8u l=0.6u
X10 vdd gp vreg vdd pmos_6p0 w=1.8u l=0.6u
X11 out inl vreg bp pmos_3p3 w=1.5u l=0.6u
C0 gp vreg 1.98fF
C1 out bp 0.15fF
C2 out vreg 0.78fF
C3 out op 0.11fF
C4 inl om 0.18fF
C5 om inr 0.18fF
C6 inl out 0.17fF
C7 inr out 0.20fF
C8 vdd vreg 1.41fF
C9 bp vreg 0.92fF
C10 om out 0.11fF
C11 inl bp 0.32fF
C12 inr bp 0.32fF
C13 inl op 0.20fF
C14 inr op 0.20fF
C15 vdd gp 0.66fF
C16 inl inr 0.60fF
C17 out gnd 1.69fF
C18 inr gnd 2.35fF
C19 inl gnd 2.36fF
C20 vreg gnd 0.72fF
C21 gp gnd 1.56fF
C22 bp gnd 6.58fF
C23 vdd gnd 6.08fF
C24 d2 gnd 0.18fF
C25 d1 gnd 0.18fF
.ends

.subckt barthmanf ip im op om vdd gp bp vreg gnd
Xbarthmanf_edge_0 vreg gp op im x y ip om vdd gnd bp barthmanf_edge
Xbarthmanf_edge_1 vreg gp op im x y ip om vdd gnd bp barthmanf_edge
Xbarthmanf_cell_0 im y op gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_1 y ip om gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_3 x op x gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_2 om x x gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_4 x y y gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_10 y ip om gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_5 y x y gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_12 x op x gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_11 om x x gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_6 ip im y gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_7 im y op gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_13 x y y gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_14 y x y gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_8 ip y om gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_15 ip im y gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_9 y im op gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_16 ip y om gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_17 y im op gp vreg op im x y ip om vdd gnd bp barthmanf_cell
C0 y ip 0.37fF
C1 op x 1.03fF
C2 ip im 0.80fF
C3 y x 0.32fF
C4 vreg y 0.21fF
C5 y op 0.67fF
C6 ip om 1.00fF
C7 im x 0.18fF
C8 gp vreg -1.33fF
C9 vreg vdd 0.44fF
C10 op im 0.40fF
C11 om x 0.36fF
C12 y im 0.31fF
C13 op om 0.23fF
C14 ip x 0.90fF
C15 y om 0.63fF
C16 ip op 0.26fF
C17 gp vdd 0.25fF
C18 vreg x 0.14fF
C19 om im 0.42fF
C20 bp gnd 113.77fF
C21 vdd gnd 100.54fF
C22 om gnd 30.16fF
C23 ip gnd 26.68fF
C24 y gnd 49.37fF
C25 x gnd 38.39fF
C26 im gnd 27.50fF
C27 op gnd 30.24fF
C28 vreg gnd 4.89fF
C29 gp gnd 25.14fF
.ends



Vdd vdd 0 DC 1.8
Vss gnd 0 DC 0
X1 vreg gp op im x y ip om vdd gnd bp barthmanf_edge
.op
.control
op
.endc
.end
